US06822100B2
A mixture of bromoethylamine hydrobromide (5.0 g, 24.4 mmol), isopropyl chloroformate (1.0 M in tetrahydrofuran, 16.3 ml, 16.3 mmol), and anhydrous dichloromethane (100 ml) was treated with triethylamine (4.5 ml, 33 mmol) and stirred at ambient temperature for 18 hr. The mixture was diluted with dichloromethane (200 ml), washed with 1 M hydrochloric acid, 1 M sodium hydroxide, and brine, dried over sodium sulfate and evaporated to give (2-bromo-ethyl)-carbamic acid isopropyl ester clear oil. 1H-NMR δ (CDCl3) 5.01 (1H, br s), 4.92 (m, 1H), 3.58 (m, 2H), 3,48 (m, 2H), 1.25 (m, 6H).

reactant | bromoethylamine hydrobromide | 24.4 mmol, 5.0 g | Br.BrCCN
reactant | isopropyl chloroformate | 16.3 mmol, 1.0 M, 16.3 ml | ClC(=O)OC(C)C | C4H7ClO2
reactant | triethylamine | 33 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2-bromo-ethyl)-carbamic acid isopropyl ester | C(C)(C)OC(NCCBr)=O | C6H12BrNO2
